US07320986B2
6-methoxy-5-{[2-(trimethylsilyl)ethoxy]methoxy}indan-1-one
To a solution of 5-hydroxy-6-methoxy-indan-1-one (21.1 g, 0.118 mol, see preparation in J. Org. Chem. 57, 1992, 589-594) and N,N-diisopropylethylamine (21.6 mL, 0.124 mol) in CH2Cl2 (200 mL) was added SEMCl (21.3 mL, 0.121 mol). The mixture was stirred at room temperature for 2 hours and diluted with NaHCO3 solution. After separation, the organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography eluted with EtOAc/hexane (3:7 to 1:1) to give 26.3 g (72%) of the desired product as brown oil. MS (ESI) m/z: 309.0 (M+H)+; 1H NMR (300 MHz, CDCl3) δ ppm −0.01 (s, 9H) 0.96 (t, J=8.25 Hz, 2H) 2.66 (t, J=5.70 Hz, 2H) 3.03 (t, J=5.70 Hz, 2H) 3.80 (t, J=8.25 Hz, 2H) 3.90 (s, 3H) 5.36 (s, 2H) H) 7.20 (s, 1H) 7.22 (s, 1H).

reactant | 5-hydroxy-6-methoxy-indan-1-one | 0.118 mol, 21.1 g | OC=1C=C2CCC(C2=CC1OC)=O | C10H10O3
reactant | N,N-diisopropylethylamine | 0.124 mol, 21.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | SEMCl | 0.121 mol, 21.3 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 6-methoxy-5-{[2-(trimethylsilyl)ethoxy]methoxy}indan-1-one | 26.3 g, 72% | COC1=C(C=C2CCC(C2=C1)=O)OCOCC[Si](C)(C)C | C16H24O4Si
